US06515023B2
To a test tube containing 0.3 mmol 2-cyclobutylamino-1-(2,3-dichlorophenyl)ethanol in 1 ml CH2Cl2 was added 314 μl of a 0.1 M solution of N-(4-isocyanato-benzyl)-2,2-dimethyl-propionamide and 0.43 μl triethylamine. The solution was allowed to stand for 1.5 h, then saturated sodium bicarbonate (1 ml) was added and the resulting mixture extracted with 1 mL EtOAc. The EtOAc extract was washed with water (2×1 ml), and the solvent removed by vacuum centrifugation over 48 h. The resulting solid was dissolved in 450 ml DMF and purified by reverse phase preparatory HPLC (Zorbax 2.5×7 cm C8 column, linear gradient 5-100% CH3CH/H2O (0.1% TFA), 15 mL/Min). The desired fractions were combined and the solvent removed by vacuum centrifugation to give. The desired fractions were combined and placed on a speed vacuum overnight for 15 h to give N-(4-{3-[2-(2,3-Dichloro-phenyl)-2-hydroxy-ethyl]-3-cyclobutyl-ureido}-benzyl)-2,2-dimethyl-propionamide. 1H NMR δH (CD3OD) 7.67-7.66 (d, 1H, J 1.22 Hz), 7.64-7.63 (d, 1H, J 1.23 Hz), 7.38-7.36 (t, 1H, J 7.94 Hz), 7.28-7.25 (d, 2H, J 8.55 Hz), 7.20-7.17 (d, 2H, J 8.24 Hz), 5.33-5.31 (t, 1H, J5.5 Hz), 4.38-4.31 (m, 4H), 3.59-3.57 (d, 2H, J 5.5 Hz), 2.20-1.99 (m, 4H), 1.68-1.56 (m, 3H), 1.20 (s, 9H).

reactant | 2-cyclobutylamino-1-(2,3-dichlorophenyl)ethanol | 0.3 mmol | C1(CCC1)NCC(O)C1=C(C(=CC=C1)Cl)Cl | C12H15Cl2NO
reactant | N-(4-isocyanato-benzyl)-2,2-dimethyl-propionamide | N(=C=O)C1=CC=C(CNC(C(C)(C)C)=O)C=C1 | C13H16N2O2
reactant | triethylamine | 0.43 μl | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | 1 ml | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
product | N-(4-{3-[2-(2,3-Dichloro-phenyl)-2-hydroxy-ethyl]-3-cyclobutyl-ureido}-benzyl)-2,2-dimethyl-propionamide | ClC1=C(C=CC=C1Cl)C(CN(C(NC1=CC=C(CNC(C(C)(C)C)=O)C=C1)=O)C1CCC1)O | C25H31Cl2N3O3
